US07601716B2
[4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methyl-piperazin-1-yl)methanone
6-Bromo-1,2,3,4-tetrahydro-[1,8]naphthyridin-4-ol (300 mg) was reacted with (4-methyl-piperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]methanone (450 mg) as in General Procedure 13. Basic alumina chromatography using a gradient of 0-10% methanol/ethyl acetate as the eluting solvent gave the title compound as a white foam (49% yield). LCMS: m/z=353 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.78 (m, 1H), 2.19 (s, 3H), 2.32 (bs, 4H), 3.27 (m, 1H), 3.36 (m, 1H), 3.50 (bs, 4H), 4.65 (m, 1H), 5.27 (d, J=4.8 Hz, 1H), 6.81 (s, 1H), 7.41 (d, J=8.3 Hz, 2H), 7.62 (d, J=8.3 Hz, 2H), 7.71 (d, J=2.2 Hz, 1H), 8.22 (d, J=2.2 Hz, 1H).

reactant | 6-Bromo-1,2,3,4-tetrahydro-[1,8]naphthyridin-4-ol | 300 mg | BrC=1C=C2C(CCNC2=NC1)O | C8H9BrN2O
reactant | (4-methyl-piperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]methanone | 450 mg | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | [4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methyl-piperazin-1-yl)methanone | 49% yield | OC1C=2C=C(C=NC2NCC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C20H24N4O2
